US07572809B2
Similar procedure as described in example 305 was used, starting from 4-fluoro-benzenethiol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-fluoro-phenylsulfanyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 381 (MH+).

reactant | 4-fluoro-benzenethiol | FC1=CC=C(C=C1)S | C6H5FS
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | [1-(4-fluoro-phenylsulfanyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | FC1=CC=C(C=C1)SC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C20H17FN4OS
